US05668289
Step A: 3-Benzyloxycarbonylamino-6-methyl-2-pyridinone
DPPA (35.6 ml, 165 mmol) was added to a stirred solution of 2-hydroxy-6-methylpyridine-3-carboxylic acid (22.97 g, 150 mmol) and triethylamine (23.0 ml, 165 mmol) in dry dioxane (300 ml) and the resulting solution was heated to reflux. After 16 h more triethylamine (23.0 ml, 165 mmol) and benzyl alcohol (17.1 ml, 150 mmol) were added and the solution was refluxed for a further 24 h. The reaction was concentrated in vacuo to remove most of the volatiles. The residue was partitioned between methylene chloride and brine, acidified to pH 1 with 1M HCl. The organic layer was washed with sodium hydrogen carbonate solution and brine, dried (MgSO4) and evaporated in vacuo. The crude product was purified by flash column chromatography (ethyl acetate/hexanes gradient 70-80% ethyl acetate, followed by 5% methanol/chloroform). The resulting solid was recrystallized from methanol, to give the title compound (21.15 g, 55%): 1H NMR (CDCl3) δ 2.29 (s, 3H, CH3), 5.20 (s, 2H, PhCH2), 6.06 (d, J=7.6 Hz, pyridinone-5-H), 7.32-7.43 (m, 5H, Ph), 7.67 (br s, 1H, CbzNH), 8.03 (br d, pyridinone-4-H).

reactant | DPPA | 165 mmol, 35.6 ml | C=1C=CC(=CC1)P(=O)(C=2C=CC=CC2)N=[N+]=[N-] | C12H10N3OP
reactant | 2-hydroxy-6-methylpyridine-3-carboxylic acid | 150 mmol, 22.97 g | OC1=NC(=CC=C1C(=O)O)C | C7H7NO3
reactant | triethylamine | 165 mmol, 23.0 ml | C(C)N(CC)CC | C6H15N
reactant | triethylamine | 165 mmol, 23.0 ml | C(C)N(CC)CC | C6H15N
reactant | benzyl alcohol | 150 mmol, 17.1 ml | C(C1=CC=CC=C1)O | C7H8O
solvent | dioxane | 300 ml | O1CCOCC1 | C4H8O2
product | 3-Benzyloxycarbonylamino-6-methyl-2-pyridinone | 21.15 g, 55% | C(C1=CC=CC=C1)OC(=O)NC=1C(NC(=CC1)C)=O | C14H14N2O3
